US20010012897A1
3-Chloro-2-n-propylthio-5-trifluoromethylpyridine
23.8 g (0.313 mol) of 1-propanethiol were added in the course of 30 minutes to a mixture of 7.9 g (0.313 mol) of 95% pure sodium hydride in 200 ml of THF while flushing with nitrogen and stirring, a temperature of 25-30° C. being maintained by means of cooling. After the mixture had been stirred for 1 hour, 54 g (0.25 mol) of 2,3-dichloro-5-trifluoromethylpyridine in 50 ml THF were added at 25-30° C. in the course of 20 minutes with stirring, and stirring was continued for 10 hours at 23° C. The reaction mixture was concentrated in vacuo, taken up in methylene chloride, extracted with 0.5 N sodium hydroxide solution, dried over magnesium sulfate and concentrated, yielding 63.5 g (99.4%) of the title compound of nD23=1.5120.

reactant | 1-propanethiol | 0.313 mol, 23.8 g | C(CC)S | C3H8S
reactant | sodium hydride | 0.313 mol, 7.9 g | [H-].[Na+]
reactant | 2,3-dichloro-5-trifluoromethylpyridine | 0.25 mol, 54 g | ClC1=NC=C(C=C1Cl)C(F)(F)F | C6H2Cl2F3N
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-Chloro-2-n-propylthio-5-trifluoromethylpyridine | 63.5 g, 99.4% | ClC=1C(=NC=C(C1)C(F)(F)F)SCCC | C9H9ClF3NS
